US08669255B2
(7R,8aS)-7-[(5-cyclopropylpyrazin-2-yl)oxy]-2-[5-(trifluoromethyl)pyridin-2-yl]hexahydropyrrolo[1,2-a]pyrazin-1(2H)-one
A 4 mL vial was charged with 2-bromo-5-(trifluoromethyl)pyridine (99 mg, 0.437 mmol), 7-(5-cyclopropylpyrazin-2-yloxy)hexahydropyrrolo[1,2-a]pyrazin-1(2H)-one [3:1 (7R,8aS: 7R,8aR) diastereomer ratio](100 mg, 0.365 mmol) from Example 163 Step 3, palladium(II) acetate (4.09 mg, 0.018 mmol), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (XANTPHOS, 21.09 mg, 0.036 mmol), and cesium carbonate (178 mg, 0.547 mmol). The mixture was purged with nitrogen, and anhydrous dioxane (0.5 mL) was added. The reaction mixture was purged with nitrogen again and was subsequently heated at 110° C. for 16 hours. The mixture was directly loaded and separated by flash chromatography [12 g cartridge, gradient 0-5% methanol/dichloromethane over 20 minutes] to give crude oily product. The crude product was further purified on 12 g cartridge eluted with 100% ethyl acetate over 20 minutes to give the title compound (39 mg, 0.093 mmol, 25.5% yield) as the first eluting diastereomer as a white foam. 1H NMR (500 MHz, CDCl3) δ ppm 8.71-8.63 (m, 1H), 8.26 (d, J=8.8 Hz, 1H), 8.11 (d, J=1.1 Hz, 1H), 7.95 (d, J=1.3 Hz, 1H), 7.90 (dd, J=8.8, 2.3 Hz, 1H), 5.50 (dd, J=6.5, 5.0 Hz, 1H), 4.45 (ddd, J=5.2, 4.3, 2.5 Hz, 1H), 4.00 (d, J=7.1 Hz, 2H), 3.33 (dd, J=11.0, 5.2 Hz, 1H), 3.32-3.25 (m, 1H), 3.10 (ddd, J=12.2, 6.1, 4.1 Hz, 2H), 2.70-2.60 (m, 1H), 2.47 (dd, J=14.4, 8.0 Hz, 1H), 2.00 (tt, J=8.0, 5.1 Hz, 1H), 1.00-0.90 (m, 4H); MS (ESI+) m/z 420 (M+H)+.

reactant | 2-bromo-5-(trifluoromethyl)pyridine | 0.437 mmol, 99 mg | BrC1=NC=C(C=C1)C(F)(F)F | C6H3BrF3N
reactant | 7-(5-cyclopropylpyrazin-2-yloxy)hexahydropyrrolo[1,2-a]pyrazin-1(2H)-one | 0.365 mmol, 100 mg | C1(CC1)C=1N=CC(=NC1)OC1CC2N(CCNC2=O)C1 | C14H18N4O2
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 0.036 mmol, 21.09 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | cesium carbonate | 0.547 mmol, 178 mg | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | palladium(II) acetate | 0.018 mmol, 4.09 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (7R,8aS)-7-[(5-cyclopropylpyrazin-2-yl)oxy]-2-[5-(trifluoromethyl)pyridin-2-yl]hexahydropyrrolo[1,2-a]pyrazin-1(2H)-one | 0.093 mmol, 39 mg, 25.5% yield | C1(CC1)C=1N=CC(=NC1)O[C@@H]1C[C@@H]2N(CCN(C2=O)C2=NC=C(C=C2)C(F)(F)F)C1 | C20H20F3N5O2
